US04965270
(c) 2-Chloro-9(2,2-dimethyl-1,3-dioxan-5ylmethoxy)purine
2-Chloro-4-(2,2-dimethyl-1,3-dioxan-5-ylmethoxyamino)-5-formamidopyrimidine (3.45 g, 10.9 mmol) in diethoxymethylacetate (100 ml) was heated at 120° C. for 2 hours. The mixture was then cooled and evaporated to a syrup. The residue was dissolved in methanol (50 ml) and concentrated aqueous ammonia (2.5 ml). The solution was then stirred at 20° C. for 1 hour, evaporated under reduced pressure and the residue co-evaporated with toluene. Column chromatography on silica gel (eluted with chloroform-methanol, 60:1) gave the title compound (2.27 g, 70%). IR: υmax (KBr) 3117, 2993, 1599, 1571, 1339 cm-1. 1H NMR: δH [(CD3)2SO] 1.33 (3H,s,CH3), 1.37 (3H,s,CH3), 2.08 (1H,m,CH), 3.81 (2H,d.d, J=5.8, 2.1 Hz, 2×H(ax)). 4.04 (2H, d.d, J=4.0, 12.0 Hz. 2×H (eq)), 4.52 (2H, d, J=3.3 Hz, CH2ON), 9.00 (1H,s,H-8), 9.14(1H,s,H-6). Found: C, 48.34; H, 5.13; N, 18.66%: C12H15ClN4O3 requires: C, 48.24; H, 5.07; N, 18.76%.

reactant | 2-Chloro-4-(2,2-dimethyl-1,3-dioxan-5-ylmethoxyamino)-5-formamidopyrimidine | 10.9 mmol, 3.45 g | ClC1=NC=C(C(=N1)NOCC1COC(OC1)(C)C)NC=O | C12H17ClN4O4
solvent | diethoxymethylacetate | 100 ml | C(C)OC(OCC)OC(C)=O | C7H14O4
product | 2-Chloro-9(2,2-dimethyl-1,3-dioxan-5ylmethoxy)purine | 2.27 g, 70% | ClC1=NC=C2N=CN(C2=N1)OCC1COC(OC1)(C)C | C12H15ClN4O3
